US09403801B2
Step 2) 2-(4-((4-(3-azaspiro[5.5]undecan-9-ylamino)-5-chloropyrimidin-2-yl)amino)-1H-pyrazol-1-yl)ethanol
To a solution of tert-butyl 9-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino) pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (500 mg, 0.99 mmol) in dichloromethane (20 mL) was added a solution of HCl in EtOAc (5 mL, 20 mmol). The mixture was stirred at room temperature for 2 h and then concentrated in vacuo. The residue was dissolved in methanol (2 mL) and adjust to pH=7-8 with the solution of NaHCO3 and extracted with DCM (100 mL×3) The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified with a silica gel column chromatography (MeOH/DCM (v/v)=1/10 to 1/7) to give the product as a light yellow solid (340 mg, 84.77%).

reactant | tert-butyl 9-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino) pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 0.99 mmol, 500 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CCO)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C24H36ClN7O3
reactant | HCl | Cl | ClH
reactant | EtOAc | 20 mmol, 5 mL | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(4-((4-(3-azaspiro[5.5]undecan-9-ylamino)-5-chloropyrimidin-2-yl)amino)-1H-pyrazol-1-yl)ethanol | 340 mg, 84.77% | C1CNCCC12CCC(CC2)NC2=NC(=NC=C2Cl)NC=2C=NN(C2)CCO | C19H28ClN7O
